US06143760
2-Chloro-5-nitropyridine was added to a homogeneous solution of potassium hydroxide (3.93 g, 70 mmol) in ethanol (35 mL) at ambient temperature. The reaction mixture was stirred for 1 h, then diluted with saturated aqueous ammonium chloride and cooled in an ice bath. The precipitate was collected, rinsed with water and dried to give 3.60 g of 2-ethoxy-5-nitropyridine as a beige solid.

reactant | 2-Chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium hydroxide | 70 mmol, 3.93 g | [OH-].[K+]
reactant | ethanol | 35 mL | C(C)O | C2H6O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-ethoxy-5-nitropyridine | 3.60 g | C(C)OC1=NC=C(C=C1)[N+](=O)[O-] | C7H8N2O3
